US05442055
10.0 g of N-methylisatic acid are added gradually to 140 ml of water at a room temperature and 9.6 g of aqueous ammonia are added dropwise thereto. The mixture is warmed to a temperature of 80° C. during 45 minutes and ethanol is added thereto until the reaction mixture becomes colorless. Then, the reaction mixture is cooled to a room temperature and the precipitated crystals are collected by filtration to obtain 7.11 g of 2-carbamoyl-N-methylaniline as colorless crystal.

reactant | N-methylisatic acid | 10.0 g | CNC=1C(=CC=CC1)C(=O)C(=O)O | C9H9NO3
reactant | water | 140 ml | O | H2O
reactant | ammonia | 9.6 g | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-carbamoyl-N-methylaniline | 7.11 g, Yield: 84% | C(N)(=O)C1=C(NC)C=CC=C1 | C8H10N2O
